US07566712B2
Combine 2,4,6-trichloropyrimidine (9.15 g, 0.05 mol), 3-chloro-4-fluorophenylboronic acid (8.7 g, 0.05 mol), 1,2-dimethoxyethane (300 mL), and 2M aqueous sodium carbonate (25 mL) and let stir under nitrogen for 10 minutes. Add palladium acetate (56 mg, 0.25 mmol) and PPh3 (131 mg, 0.5 mmol) and reflux the mixture for 16 hours. Evaporate, add water (100 mL), and extract twice with DCM (25 mL each). Dry the organic layer with sodium sulfate and evaporate, giving a yellow gum. The mixture is chromatographed with 20:1 hexanes/EtOAc, affording 2,4-dichloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidine as a white solid.

reactant | 2,4,6-trichloropyrimidine | 0.05 mol, 9.15 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 3-chloro-4-fluorophenylboronic acid | 0.05 mol, 8.7 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | sodium carbonate | 2M, 25 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | PPh3 | 0.5 mmol, 131 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
catalyst | palladium acetate | 0.25 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,2-dimethoxyethane | 300 mL | COCCOC | C4H10O2
product | 2,4-dichloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidine | ClC1=NC(=CC(=N1)Cl)C1=CC(=C(C=C1)F)Cl | C10H4Cl3FN2
